US08865675B2
Synthesis of Ethyl 6-(Methanesulfonyl)Hexanoate
To a solution of ethyl 6-hydroxyhexanoate (5 g, 31.2 mmol) in anhydrous dichloromethane (115 mL) under nitrogen at −10° C. was added triethylamine (8.7 mL, 62.5 mmol) followed by methanesulfonyl chloride (4.8 mL, 62.5 mmol) dropwise over 1 hour. The resulting solution was stirred at room temperature for 6 hours and then diluted to 300 mL using dichloromethane. The solution was washed with twice saturated NaHCO3, and the aqueous layers backextracted with dichloromethane. The combined organics were dried over MgSO4, filtered, and concentrated. The resulting dark orange oil was purified by column chromatography (column 5″L×2″W; eluted with a gradient of 100% hexanes→10%→20% ethyl acetate in hexanes) to afford the product as a pale yellow oil.

reactant | ethyl 6-hydroxyhexanoate | 31.2 mmol, 5 g | OCCCCCC(=O)OCC | C8H16O3
reactant | triethylamine | 62.5 mmol, 8.7 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 62.5 mmol, 4.8 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 115 mL | ClCCl | CH2Cl2
product | Ethyl 6-(Methanesulfonyl)Hexanoate | CS(=O)(=O)CCCCCC(=O)OCC | C9H18O4S
